US04077982
Using the method of Example 5e, 30 g 2-ethoxybenzaldehyde was reacted with 18.4 g glycerol to form 2-(2-ethoxyphenyl)-5-hydroxy-1,3-dioxane, crude b.p. 140°-148° C/10-5 mm.

reactant | 2-ethoxybenzaldehyde | 30 g | C(C)OC1=C(C=O)C=CC=C1 | C9H10O2
reactant | glycerol | 18.4 g | OCC(O)CO | C3H8O3
product | 2-(2-ethoxyphenyl)-5-hydroxy-1,3-dioxane | C(C)OC1=C(C=CC=C1)C1OCC(CO1)O | C12H16O4
